US07932270B2
To a solution of tert-butyl 4-(2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate (71 mg, 0.11 mmol) in MeOH (5.0 mL) was added HCl (1.0 mL, 4 mmol, 4 M in dioxane). The reaction mixture was stirred at r.t. for 2 h. LC/MS indicated the reaction was complete. The reaction mixture was concentrated under reduced pressure and the crude was purified on RP-HPLC using a mixture of acetonitrile (0.1% TFA) and water (0.1% TFA) to give N-((1-(4-aminobutanoyl)pyrrolidin-2-yl)methyl)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamide as a pale yellow solid (57.1 mg, 68%). LRMS (M+H+) m/z 529.2.

reactant | tert-butyl 4-(2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate | 0.11 mmol, 71 mg | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC2N(CCC2)C(CCCNC(OC(C)(C)C)=O)=O)C=C1)NCCC1=CC(=CC=C1)F | C35H41FN6O4
reactant | HCl | 4 mmol, 4 M, 1.0 mL | Cl | ClH
solvent | MeOH | 5.0 mL | CO | CH4O
product | N-((1-(4-aminobutanoyl)pyrrolidin-2-yl)methyl)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamide | 57.1 mg, 68% | NCCCC(=O)N1C(CCC1)CNC(C1=C(N=C(C=C1)C1=C(C=CC=C1)C#N)NCCC1=CC(=CC=C1)F)=O | C30H33FN6O2
